US06166006
To a solution of ethyl 7-(4-methylthiophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate (198.5 mg) in THF (20 ml) was added at 0° C. 70% 3-chloroperbenzoic acid (317 mg), and the mixture was stirred at 0° C. for 30 minutes and then at room temperature for 1 hour. To the mixture was added sodium thiosulfate solution, and the mixture was stirred for a few minutes and then extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate solution and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the residue was purified with column chromatography (ethyl acetate/hexane=1:1) to give colorless crystals of ethyl 7-(4-methylsulfonylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate (221.8 mg).

reactant | ethyl 7-(4-methylthiophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate | 198.5 mg | CSC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C20H20O3S
reactant | 3-chloroperbenzoic acid | 317 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | ethyl 7-(4-methylsulfonylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate | 221.8 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C20H20O5S
